US06586434B2
Preparation of (4E)-2-methyl-2-(phenylthiomethyl)-hept-4-enal
2-Methyl-3-phenylthiopropanal (9.07 g, 0.05 mole), 1-penten-3-ol (21.67 g, 0.25 mole), and p-toluenesulfonic acid (0.24 g, 0.0013 mole) are added to 90 ml of xylenes. The reaction mixture is heated to reflux using a Dean-Stark trap to collect water. After 3 hours, the mixture is cooled to room temperature and quenched with 30 ml of saturated NaHCO3 solution. The two phases are separated and the aqueous phase is extracted with 30 ml of ethyl acetate. The combined organic extracts is washed with 30 ml of brine and dried with Na2SO4. After removing solvents, the crude product is purified by chromatography. The product is obtained in 77% as a colorless oil.

reactant | 2-Methyl-3-phenylthiopropanal | 0.05 mole, 9.07 g | CC(C=O)CSC1=CC=CC=C1 | C10H12OS
reactant | 1-penten-3-ol | 0.25 mole, 21.67 g | C=CC(CC)O | C5H10O
reactant | p-toluenesulfonic acid | 0.0013 mole, 0.24 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | (4E)-2-methyl-2-(phenylthiomethyl)-hept-4-enal | CC(C=O)(C\C=C\CC)CSC1=CC=CC=C1 | C15H20OS
